US05703052
(3β,5α,11α,25R)spirostan-3,11-diol-12-one:
(3β,5α,11α,25R)-3,11-di(acetoxy)spirostan-2-one was saponified with sodium methoxide in methanol and THF to give the title compound.

reactant | (3β,5α,11α,25R)-3,11-di(acetoxy)spirostan-2-one | C(C)(=O)O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4C[C@H]5[C@H]([C@H](C)[C@]6(O5)CC[C@@H](C)CO6)[C@]4(C[C@H]([C@@H]3[C@]2(CC1=O)C)OC(C)=O)C | C31H46O7
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
product | (3β,5α,11α,25R)spirostan-3,11-diol-12-one | C[C@H]1[C@H]2[C@H](C[C@H]3[C@@H]4CC[C@H]5C[C@H](CC[C@]5(C)[C@H]4[C@@H](C([C@]23C)=O)O)O)O[C@]12CC[C@@H](C)CO2 | C27H42O5
